US05530019
A mixture of 3-[8-(4-isobutylphenyl)undecanoyl]indole obtained in Pre. Ex. 8 (62 mg), ethyl 4-bromobutyrate (58 mg) and potassium carbonate (62 mg) in N,N-dimethylformamide (2 ml) was stirred at room temperature for 16 hours. After filtration, the solution was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on a silica gel column (hexane-ethyl acetate, 4: 1) to give ethyl 4-[3-[8-(4-isobutylphenyl)-undecanoyl]-1-indolyl]butyrate as an oil. (48 mg)

reactant | 3-[8-(4-isobutylphenyl)undecanoyl]indole | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CNC2=CC=CC=C12)CCC | C29H39NO
reactant | ethyl 4-bromobutyrate | 58 mg | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 62 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl 4-[3-[8-(4-isobutylphenyl)-undecanoyl]-1-indolyl]butyrate | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)CCC | C35H49NO3
